US05155113
Preparation of 4-acetoxy-5-chloro-2-pyridone
A 5.00 g quantity of 5-chloro-4-hydroxy-2-pyridone and 3.66 ml of acetyl chloride were stirred in 250 ml of pyridine at room temperature for 3 hours. The reaction mixture was then concentrated and the concentrate was washed with ethyl acetate and water to produce 3.39 g of the title compound in a yield of 52%.

reactant | 5-chloro-4-hydroxy-2-pyridone | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | acetyl chloride | 3.66 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-5-chloro-2-pyridone | 3.39 g, yield of 52% | C(C)(=O)OC1=CC(NC=C1Cl)=O | C7H6ClNO3
